US04861769
To a solution of ethyl 2-(2-bromoethoxyimino)-3,3-ethylenedioxybutyrate (syn isomer)(50 g) in dimethyl sulfoxide (50 ml) was dropwise added potassium tertbutoxide (21.7 g) in tetrahydrofuran (190 ml) under ice-cooling. The mixture was stirred at the same temperature for 10 minutes. The mixture was poured into ice-water and extracted with diethyl ether. The extract was washed with water, dried over magnesium sulfate and evaporated in vacuo to give ethyl 2-vinyloxyimino-3,3-ethylenedioxybutyrate (syn isomer) (35.1 g) as an oil.

reactant | ethyl 2-(2-bromoethoxyimino)-3,3-ethylenedioxybutyrate | 50 g | BrCCON=C(C(=O)OCC)C1(C)OCCO1 | C10H16BrNO5
reactant | potassium tertbutoxide | 21.7 g | CC(C)([O-])C.[K+]
solvent | dimethyl sulfoxide | 50 ml | CS(=O)C | C2H6OS
solvent | tetrahydrofuran | 190 ml | O1CCCC1 | C4H8O
product | ethyl 2-vinyloxyimino-3,3-ethylenedioxybutyrate | 35.1 g | C(=C)ON=C(C(=O)OCC)C1(C)OCCO1 | C10H15NO5
